US09278968B2
A mixture of 2 g of ethyl 8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxylate, 2 g of (3-fluoropyridin-2-yl)methanol, 4 g of (tributylphosphoranyliden)acetonitrile, and 40 ml of toluene was stirred at 110° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, water was added thereto, and the precipitated solid was collected by filtration. The obtained residue was purified by silica gel column chromatography to obtain 2.15 g of ethyl 8-[(3-fluoropyridin-2-yl)methoxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate.

reactant | ethyl 8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 2 g | OC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C11H12N2O3
reactant | (3-fluoropyridin-2-yl)methanol | 2 g | FC=1C(=NC=CC1)CO | C6H6FNO
reactant | (tributylphosphoranyliden)acetonitrile | 4 g | C(CCC)P(CCCC)(CCCC)=CC#N | C14H28NP
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 8-[(3-fluoropyridin-2-yl)methoxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 2.15 g | FC=1C(=NC=CC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C17H16FN3O3
